US06326379B1
C. 4-[[(3,4-Dioxomethylenephenyl)methyl]amino]-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid
4-Chloro-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester and (3,4-dioxomethylenephenyl)methylamine were used to afford the title compound (80%) as a white solid: mp 230° C. (decomposed).

reactant | 4-Chloro-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=NC1)N(N=C2)CC)Cl | C11H12ClN3O2
reactant | (3,4-dioxomethylenephenyl)methylamine | O=C=C1C=C(C=CC1=C=O)CN | C9H7NO2
product | 4-[[(3,4-Dioxomethylenephenyl)methyl]amino]-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid | 80% | O=C=C1C=C(C=CC1=C=O)CNC1=C2C(=NC=C1C(=O)O)N(N=C2)CC | C18H14N4O4
